US04547514
3-(3,4-Dichlorophenoxy)-1-piperidinecarbonyl Chloride
To a stirred solution of 8 g (0.085 mole) of phosgene in 100 ml of methylene chloride at 5° C. under nitrogen gas was added slowly a solution of 27.1 g (0.081 mole) of 1-benzyl-3-(3,4-dichlorophenoxy)piperidine in 50 ml of methylene chloride. The reaction mixture was allowed to warm to room temperature over a 2 hr period and then concentrated to a light oil. The oil was triturated with hexane. Starting material, 1.6 g as fine white precipitate, was separated by filtration. The oil was triturated four more times with hexane to remove benzyl chloride. The remaining oil was taken up in 200 ml of benzene and 50 ml of pyridine was added. The mixture was allowed to stir overnight. Some quaternary benzyl chloride salt precipitated and was discarded. The title compound in solution was used in Example 12.

reactant | phosgene | 0.085 mole, 8 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(3,4-dichlorophenoxy)piperidine | 0.081 mole, 27.1 g | C(C1=CC=CC=C1)N1CC(CCC1)OC1=CC(=C(C=C1)Cl)Cl | C18H19Cl2NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,4-Dichlorophenoxy)-1-piperidinecarbonyl Chloride | ClC=1C=C(OC2CN(CCC2)C(=O)Cl)C=CC1Cl | C12H12Cl3NO2
